US08557983B2
2,3-difluoro-4-nitrophenol
A solution of 2,3-difluoro-4-nitroanisole (10 g) in 48% HBr (60 mL) and 30% HBr in acetic acid (30 mL) was stirred at 120° C. overnight. The mixture was cooled to room temperature and extracted with ethyl acetate (3×200 mL) and the combined extracts were washed with brine and dried over Na2SO4. Filtration and evaporation of the solvent gave the product.

reactant | 2,3-difluoro-4-nitroanisole | 10 g | FC1=C(C=CC(=C1F)[N+](=O)[O-])OC | C7H5F2NO3
solvent | HBr | 60 mL | Br | BrH
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2,3-difluoro-4-nitrophenol | FC1=C(C=CC(=C1F)[N+](=O)[O-])O | C6H3F2NO3
